US04670551
36.3 g of pyridine hydrobromide perbromide are added to a solution of 16.8 g of 17,17-ethylenedioxyandrost-5-ene-3β,11β-diol in 102 ml of tetrahydrofuran and the whole is stirred at room temperature for 21/2 hours. 26.9 g of sodium iodide are added to the mixture, which is then stirred for a further 30 minutes; a solution of 36.3 g of sodium thiosulphate in 50.4 ml of water, and 100 ml of pyridine are added in succession to the mixture and stirring is continued for a further 2 hours at room temperature. The reaction mixture is diluted with 100 ml of water and concentrated under a water-jet vacuum at approximately 45°. The residue is taken up in ethyl acetate and washed in succession with saturated sodium chloride solution, ice-cold dilute hydrochloric acid, ice-cold dilute sodium hydroxide solution and again with saturated sodium chloride solution and dried over sodium sulphate. Distilling off the solvent under a water-jet vacuum results in an amorphous residue comprising crude 16α-bromo-17,17-ethylenedioxyandrost-5-ene-3β, 11β-diol. The resulting crude product (13 g) is dissolved in 143 ml of dimethyl sulphoxide, and, while stirring, a mixture of 7 g of potassium tert.-butoxide in 13 ml of dimethyl sulphoxide is added at 45° in the course of 30 minutes and stirring is continued for 20 hours at 50° (bath temperature). The mixture is cooled to room temperature, diluted with approximately 1300 ml of a saturated ammonium chloride solution and taken up in ethyl acetate; the organic phase is washed three times with saturated sodium chloride solution and dried over sodium sulphate. By distilling off the solvent under a water-jet vacuum there is obtained amorphous 17,17-ethylenedioxyandrosta-5,15-diene-3β,11β-diol of a purity adequate for further processing.

reactant | pyridine hydrobromide perbromide | 36.3 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 17,17-ethylenedioxyandrost-5-ene-3β,11β-diol | 16.8 g | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C[C@H](CC[C@]4(C)[C@H]2[C@H](C3)O)O)OC1 | C21H32O4
reactant | sodium iodide | 26.9 g | [I-].[Na+]
reactant | sodium thiosulphate | 36.3 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 102 ml | O1CCCC1 | C4H8O
solvent | water | 50.4 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 16α-bromo-17,17-ethylenedioxyandrost-5-ene-3β, 11β-diol | Br[C@H]1C2([C@]3(C)[C@@H](C1)[C@@H]1CC=C4C[C@H](CC[C@]4(C)[C@H]1[C@H](C3)O)O)OCCO2 | C21H31BrO4
